US06579884B1
Synthesis of 2-cyanomethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine
2-chloromethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine (2.4 mmol) and potassium cyanide (2.4 mmol) were added to dimethyl sulfoxide (25 ml) and stirred for 2 h. at room temperature. Methylene chloride and water were added to the reaction mixture and the organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by by column chromatography on silica gel using methylene chloride:methanol (10:1) as eluent. Crystallization from acetonitrile gave 0.25 g (34%) of the title compound.

reactant | 2-chloromethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine | 2.4 mmol | ClCC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)C)C1C | C18H20ClN3
reactant | potassium cyanide | 2.4 mmol | [C-]#N.[K+]
reactant | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-cyanomethyl-8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridine | 0.25 g, 34% | C(#N)CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)C)C1C | C19H20N4
